US09403805B2
(2S,4S)-4-[(1-Hydroxy-naphthalene-2-carbonyl)-amino]-1-isobutyl-pyrrolidine-2-carboxylic acid ethyl ester was prepared from (2S,4S)-4-amino-1-isobutyl-pyrrolidine-2-carboxylic acid ethyl ester and 1-hydroxy-naphthalene-2-carboxylic acid in an analogous manner to example 1. MS calcd. for C22H29N2O4 [(M+H)+] 385.0, obsd. 385.4.

reactant | (2S,4S)-4-amino-1-isobutyl-pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@H]1N(C[C@H](C1)N)CC(C)C | C11H22N2O2
reactant | 1-hydroxy-naphthalene-2-carboxylic acid | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
product | (2S,4S)-4-[(1-Hydroxy-naphthalene-2-carbonyl)-amino]-1-isobutyl-pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@H]1N(C[C@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)CC(C)C | C22H28N2O4
